2128-07-30 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2128-7-29**] 10:54 PM
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   A.C.E Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-30**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 87 (80 - 92) bpm
   BP: 88/45(57) {81/45(55) - 96/62(69)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                    150 mL
                                                                    717 mL
   PO:
             TF:
   IVF:
                                                                    150 mL
                                                                    717 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    340 mL
   Urine:
                                                                    350 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                    377 mL
   Respiratory support
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   GEN: NAD
   HEENT: moist membranes
   Neck: + JVD
   CV: irreg irreg, 3/6 SEM
   Lungs: clear anteriorly
   Abd: NT/ND, +BS
   Ext: 2+ RLE edema to thigh, trace on L.  peripherals not palpable BL.
   Both legs warm to touch.  Surgical site on R hip without pus or
   bleeding. R hip and thigh, warm to touch edematous, and erythematous.
   Skin:  Not assessed
   Neurologic: A+Ox3, Moves Left lower extremity without difficulty.
   Minimal but able to perform dorsiflexion/plantarflexion of R lower
   extremity.
   Labs / Radiology
   607 K/uL
   8.2 g/dL
   119 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.4 mEq/L
   44 mg/dL
   108 mEq/L
   135 mEq/L
   24.1 %
   14.4 K/uL
        [image002.jpg]
   Micro:
   [**7-21**] Urine 1000/ml probable enterococcus
   [**7-21**] and [**7-23**] blood NG
   [**7-23**] Urine NG
   [**7-29**] blood pending
   Rads:
   [**7-27**] duplexRLE, no DVT
   [**7-26**] CT head, no acute disease
   [**7-28**] CT RLE
 intramuscular hematoma in R gluteal muscle and anterior
   thigh  musculature
   Diff 11% EOS
                             [**2128-7-29**]  11:47 PM
                             [**2128-7-30**]  03:50 AM
   WBC
   14.1
   14.4
   Hct
   23.3
   24.1
   Plt
   550
   607
   Cr
   1.7
   1.8
   Glucose
   114
   119
   Other labs: PT / PTT / INR:15.8/27.4/1.4, ALT / AST:55/57, Alk Phos / T
   Bili:236/1.1, Amylase / Lipase:45/49, Albumin:2.3 g/dL, LDH:330 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   #R gluteal hematoma: Pt s/p recent R hip hemiarthroplasty and
   re-started on Heparin gtt post-op given mechanical aortic valve. Was
   noted to have Hct drop of 27.3 --> 23.3 overnight from [**7-27**] to [**7-28**], and
   then subsequently identified to have a gluteal hematoma on abd CT.
   currently INR 1.5, PTT 27 and pt off gtt since afternoon of [**7-28**].  Pt
   s/p total of 3U PRBCs since [**7-28**] with inappropriate bump in Hct
   following 2U PRBCs today on [**7-29**] : 21.7 --> 23.9
   -Continue holding Heparin gtt and coumadin given continued bleeding
   into gluteal hematoma. No heparin since yesterday at noon
   -Serial exams to eval for compartment syndrome; Ortho following
   -If pt develops foot drop, contact Ortho for possible hematoma
   evacuation.
   #Acute Anemia - due to R gluteal hematoma as above. Anticoagulation on
   hold until anemia stablizes. Pt initially with supratherapeutic INR on
   admission to OSH prior to transfer, s/p Vitamin K prior to hip surgery.
   -Hct check q6
   -Transfuse PRBCs to keep Hct >21. HCT stable at this time
   -Check coags daily, no need for FFP unless Hct drop becomes more acute
   or pt becomes hemodynamically unstable from bleed
   #Mechanical Aortic Valve
   Pt off anticoagulation since [**7-28**] given active bleed into R gluteal
   hematoma. INR subtherapeutic, PTT normal currently since off heparin
   gtt.
   -Continue holding Coumadin until bleeding issues stablize
   -Re-assess risk/benefit of anticoagulation daily and re-start Heparin
   without bolus and at lower end of therapeutic range once bleeding more
   stable. Will discuss this issue with cards
   #Hypotension/Orthostatic Hypotension
   Initially admitted after a fall secondary to presumed orthostatic
   hypotension. Baseline BP runs 90's-100's, and currently 80's/40's with
   active bleeding into hematoma.
   -tele monitoring
   -Continue holding BBlocker until bleeding stabilizes
   -IVF resuscitation as needed to maintain cardiovascular status
   #Ischemic Cardiomyopathy
   Recent echo demonstrated EF of 45%.
   - Current JVD suggests pt may be volume overloaded. Continue to monitor
   BP this afternoon. Consider starting mild diuresis this evening if BP
   stable.
   -Continue Statin
   -Bblocker on hold until acute issues resolve
   -No ACE for now given ACE allergy/no [**Last Name (un) 239**] given ARF
   -No nitrates for now
   #Acute Renal Failure
   Improving gradually following hypotensive episode earlier this
   admission.
   -Given current active bleeding, goal to keep I/O even to slight neg to
   maintain kidney perfusion
   -Monitor BMP daily
   #Delirium
   Reportedly improved somewhat since recent discharge out of MICU several
   days ago. However, pt still reportedly confused per family.  Head CT on
   [**8-14**], [**7-19**] with no evidence of bleed or interval change.
   -Frequent reorientation
   -Avoid narcotics for pain, tramadol prn
   -Haldol prn hyperactivity or agitation
   #CAD
   -Holding ASA for now given active bleed into hematoma
   -Holding BBlocker given hypotension/active bleeding
   -Continue statin therapy
   ICU Care
   Nutrition:
   Glycemic Control:  not diabetic
   Lines:
   Multi Lumen - [**2128-7-29**] 10:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: On Hold)
   Stress ulcer:  Pepcid 20mg [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2128-07-31 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hypotensive with SBP 75, MAPs in 40s, but Hct stable.  Transfused 1
   Unit PRBCs, Hct 24.4 before, 24.2 after.
   Discussed with ortho resident- they want us to avoid heparin boluses,
   and start low and go slow with anticoagulation, but recognize the need
   for it.
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   A.C.E Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-31**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 82 (79 - 97) bpm
   BP: 90/58(64) {66/30(43) - 105/71(79)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104.1 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 13 (-2 - 13)mmHg
   Total In:
                                                                  1,855 mL
                                                                    431 mL
   PO:
                                                                    670 mL
   TF:
   IVF:
                                                                  1,142 mL
                                                                    169 mL
   Blood products:
                                                                     13 mL
                                                                    263 mL
   Total out:
                                                                  1,000 mL
                                                                    400 mL
   Urine:
                                                                  1,000 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    855 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Gen: NAD, lying comfortably in bed
   Cardiac: S1S2 nml, RRR with irregular beats, no MRG
   Pulm: CTA b/l
   Abd: +BS, nt/nd, soft, no HSM
   Ext: able to move all 4, no sign of foot drop as pt is able to
   dorsiflex the foot, right leg is significantly large than left with R
   gluteal hematoma
   Peripheral Vascular:
   Skin:  R hip with staples intact
   Neurologic: AAOx2(not to day_
   Labs / Radiology
   655 K/uL
   8.6 g/dL
   112 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.5 mEq/L
   41 mg/dL
   107 mEq/L
   135 mEq/L
   24.2 %
   12.7 K/uL
         [image002.jpg]
                             [**2128-7-29**]  11:47 PM
                             [**2128-7-30**]  03:50 AM
                             [**2128-7-30**]  11:43 AM
                             [**2128-7-30**]  06:39 PM
                             [**2128-7-31**]  03:22 AM
   WBC
   14.1
   14.4
   12.7
   Hct
   23.3
   24.1
   24.5
   24.4
   24.2
   Plt
   550
   607
   655
   Cr
   1.7
   1.8
   1.5
   Glucose
   114
   119
   112
   Other labs: PT / PTT / INR:16.5/29.5/1.5, ALT / AST:55/57, Alk Phos / T
   Bili:236/1.1, Amylase / Lipase:45/49, Albumin:2.3 g/dL, LDH:330 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Assessment: 74 yo M with Mechanical Aortic Valve who was anticoagulated
   after ortho surgery and bled into his hip resulting in hct drop and R
   gluteal hematoma.
   Plan
   #R gluteal hematoma: Pt s/p recent R hip hemiarthroplasty and
   re-started on Heparin gtt post-op given mechanical aortic valve. Was
   noted to have Hct drop of 27.3 --> 23.3 overnight from [**7-27**] to [**7-28**], and
   then subsequently identified to have a gluteal hematoma on abd CT.
   currently INR 1.5, PTT 29.5 and pt off gtt since afternoon of [**7-28**].  Pt
   s/p total of 3U PRBCs since [**7-28**] with inappropriate bump in Hct
   following 1U PRBCs today on [**7-31**] : 24.4
24.2
   -Restart Heparin gtt and continue to hold coumadin given continued
   bleeding into gluteal hematoma but medical need for anticoagulation
   -Serial exams to eval for compartment syndrome; Ortho following
   -If pt develops foot drop, contact Ortho for possible hematoma
   evacuation.
   #Acute Anemia - due to R gluteal hematoma as above. Anticoagulation on
   hold until anemia stablizes. Pt initially with supratherapeutic INR on
   admission to OSH prior to transfer, s/p Vitamin K prior to hip surgery.
   -Hct check q6
   -Transfuse PRBCs to keep Hct >21. HCT stable at this time
   -Check coags daily, no need for FFP unless Hct drop becomes more acute
   or pt becomes hemodynamically unstable from bleed
   #Mechanical Aortic Valve
   Pt off anticoagulation since [**7-28**] given active bleed into R gluteal
   hematoma. Restarted heparin gtt today. INR subtherapeutic, PTT normal
   currently since off heparin gtt.
   -Continue holding Coumadin until bleeding issues stablize
   #Hypotension/Orthostatic Hypotension
   Initially admitted after a fall secondary to presumed orthostatic
   hypotension. Baseline BP runs 90's-100's, and currently 80's/60's with
   hematoma stabilizing.
   -tele monitoring
   -Continue holding BBlocker until bleeding stabilizes
   -IVF resuscitation as needed to maintain cardiovascular status
   #Ischemic Cardiomyopathy
   Recent echo demonstrated EF of 45%.
   - Current JVD suggests pt may be volume overloaded. Continue to monitor
   BP this afternoon. Will not diurese today as BP is too low.
   -Continue Statin
   -Bblocker on hold until acute issues resolve
   -No ACE for now given ACE allergy/no [**Last Name (un) 239**] given ARF
   -No nitrates for now
   #Acute Renal Failure
   Improving gradually following hypotensive episode earlier this
   admission.
   -Given current active bleeding, goal to keep I/O even to slight neg to
   maintain kidney perfusion
   -Monitor BMP daily
   #Delirium
   Reportedly improved somewhat since recent discharge out of MICU several
   days ago. However, pt still reportedly confused per family.  Head CT on
   [**8-14**], [**7-19**] with no evidence of bleed or interval change.
   -Frequent reorientation
   -Avoid narcotics for pain, tramadol prn
   -Haldol prn hyperactivity or agitation
   #CAD
   -Holding ASA for now given active bleed into hematoma
   -Holding BBlocker given hypotension/active bleeding
   -Continue statin therapy
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-29**] 10:54 PM
   Prophylaxis:
   DVT:  pneumoboots, heparin gtt
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until bleeding stopped

2128-07-31 10:52:00 Physician Attending Progress Note
Chief Complaint: Hemorrhage--post operatively
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1 unit PRBC given
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   A.C.E Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Musculoskeletal: Joint pain
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2128-7-31**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 83 (79 - 97) bpm
   BP: 109/57(69) {66/30(43) - 109/71(79)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104.1 kg (admission): 100 kg
   Height: 71 Inch
   CVP: 10 (-2 - 14)mmHg
   Total In:
                                                                  1,855 mL
                                                                    709 mL
   PO:
                                                                    670 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,142 mL
                                                                    206 mL
   Blood products:
                                                                     13 mL
                                                                    263 mL
   Total out:
                                                                  1,000 mL
                                                                    640 mL
   Urine:
                                                                  1,000 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    855 mL
                                                                     69 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Extremities: Right: Absent, Left: Absent, No evidence of impaired LE
   motor strength
   Skin:  Not assessed, Eccymosis in gluteal region
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
Light touch in tact in LE distally, he has good warmth and
   continued stability of motor strength in right ankle
   Labs / Radiology
   8.6 g/dL
   655 K/uL
   112 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.5 mEq/L
   41 mg/dL
   107 mEq/L
   135 mEq/L
   24.2 %
   12.7 K/uL
        [image002.jpg]
                             [**2128-7-29**]  11:47 PM
                             [**2128-7-30**]  03:50 AM
                             [**2128-7-30**]  11:43 AM
                             [**2128-7-30**]  06:39 PM
                             [**2128-7-31**]  03:22 AM
   WBC
   14.1
   14.4
   12.7
   Hct
   23.3
   24.1
   24.5
   24.4
   24.2
   Plt
   550
   607
   655
   Cr
   1.7
   1.8
   1.5
   Glucose
   114
   119
   112
   Other labs: PT / PTT / INR:16.5/29.5/1.5, ALT / AST:55/57, Alk Phos / T
   Bili:236/1.1, Amylase / Lipase:45/49, Albumin:2.3 g/dL, LDH:330 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   74 yo male s/p right hip ORIF complicated by post operative bleeding
   and admit to ICU with significant hemorrhage.  This was in the setting
   of required anticoagulation in the setting of mechanical valve
   replacement.  He now has moderate and persistent bleeding noted
   requiring 1 unit in past 24 hours.  Heparin held since 1pm on [**2128-7-29**].
   He has evidence of significant hemorrhage and external exam
although
   reassuring for no evidence of evolution of compartment syndrome.
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
   -he has HCT that showed minimal response to 1 unit PRBC
   -Concern for ongoing blood loss is real with ongoing blood loss
   suggested by the limited increase in HCT with transfusion.
   -Will continue HCT check q 4 hours today.
   -
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
   -Goal to return to anticoagulation at earliest possible time.
   -If HCT continued stable at next check will restart systemic
   anticoagulation and continue to monitor at frequent intervals.
   -Heparin with no bolus
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DELIRIUM / CONFUSION
   -Much improved this morning on exam
   -Likely multifactorial delirum
   -Haldol PRN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -Modest improvement with Cr decreased with blood pressure stability and
   adequate perfusion.
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-29**] 10:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2128-08-01 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   A.C.E Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 76 (74 - 91) bpm
   BP: 94/43(55) {86/33(47) - 109/77(83)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 4 (2 - 20)mmHg
   Total In:
                                                                  1,581 mL
                                                                    547 mL
   PO:
                                                                    870 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    449 mL
                                                                     72 mL
   Blood products:
                                                                    263 mL
                                                                    375 mL
   Total out:
                                                                  1,390 mL
                                                                    450 mL
   Urine:
                                                                  1,390 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   729 K/uL
   8.6 g/dL
   108 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.5 mEq/L
   38 mg/dL
   109 mEq/L
   136 mEq/L
   26.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2128-7-29**]  11:47 PM
                             [**2128-7-30**]  03:50 AM
                             [**2128-7-30**]  11:43 AM
                             [**2128-7-30**]  06:39 PM
                             [**2128-7-31**]  03:22 AM
                             [**2128-7-31**]  11:38 AM
                             [**2128-7-31**]  05:56 PM
                             [**2128-7-31**]  11:16 PM
                             [**2128-8-1**]  04:21 AM
   WBC
   14.1
   14.4
   12.7
   10.0
   Hct
   23.3
   24.1
   24.5
   24.4
   24.2
   24.0
   25.6
   23.6
   26.3
   Plt
   550
   607
   655
   729
   Cr
   1.7
   1.8
   1.5
   1.4
   Glucose
   114
   119
   112
   108
   Other labs: PT / PTT / INR:16.9/29.4/1.5, ALT / AST:55/57, Alk Phos / T
   Bili:236/1.1, Amylase / Lipase:45/49, Albumin:2.3 g/dL, LDH:330 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DELIRIUM / CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-29**] 10:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-08-01 07:51:00 Physician Resident Progress Note
Chief Complaint:  R gluteal
   24 Hour Events:
   -drop in Hct from 25.6-23.6, stopped gtt, and given 1 unit PRCs, post
   transfusion Hct 26.3
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   A.C.E Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt reports some pain still in hip, had some trouble
   falling asleep last night and was given 1 dose of trazadone
   Flowsheet Data as of  [**2128-8-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 76 (74 - 91) bpm
   BP: 94/43(55) {86/33(47) - 109/77(83)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 4 (2 - 20)mmHg
   Total In:
                                                                  1,581 mL
                                                                    547 mL
   PO:
                                                                    870 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    449 mL
                                                                     72 mL
   Blood products:
                                                                    263 mL
                                                                    375 mL
   Total out:
                                                                  1,390 mL
                                                                    450 mL
   Urine:
                                                                  1,390 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Gen: NAD, lying comfortably in bed
   Cardiac: S1S2 nml with mechanical clicks and SEM murmur, RRR with
   irregular beats, no Rubs or Gallops
   Pulm: CTA b/l
   Abd: +BS, nt/nd, soft, no HSM
   Ext: able to move all 4, no sign of foot drop as pt is able to
   dorsiflex the foot, right leg is significantly more edematous(3+) than
   left with R gluteal hematoma
   Peripheral Vascular: dopplerable DP pulses B/L
   Skin:  R hip with staples intact, tense and edematous around site
   Neurologic: AAOx3-except to day but knew month and year
   Labs / Radiology
   729 K/uL
   8.6 g/dL
   108 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.5 mEq/L
   38 mg/dL
   109 mEq/L
   136 mEq/L
   26.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2128-7-29**]  11:47 PM
                             [**2128-7-30**]  03:50 AM
                             [**2128-7-30**]  11:43 AM
                             [**2128-7-30**]  06:39 PM
                             [**2128-7-31**]  03:22 AM
                             [**2128-7-31**]  11:38 AM
                             [**2128-7-31**]  05:56 PM
                             [**2128-7-31**]  11:16 PM
                             [**2128-8-1**]  04:21 AM
   WBC
   14.1
   14.4
   12.7
   10.0
   Hct
   23.3
   24.1
   24.5
   24.4
   24.2
   24.0
   25.6
   23.6
   26.3
   Plt
   550
   607
   655
   729
   Cr
   1.7
   1.8
   1.5
   1.4
   Glucose
   114
   119
   112
   108
   Other labs: PT / PTT / INR:16.9/29.4/1.5, ALT / AST:55/57, Alk Phos / T
   Bili:236/1.1, Amylase / Lipase:45/49, Albumin:2.3 g/dL, LDH:330 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Assessment: 74 yo M with Mechanical Aortic Valve who was anticoagulated
   after ortho surgery and bled into his hip resulting in hct drop and R
   gluteal hematoma.
   Plan:
   #R gluteal hematoma: Pt s/p recent R hip hemiarthroplasty and
   re-started on Heparin gtt post-op given mechanical aortic valve. Was
   noted to have Hct drop of 27.3 --> 23.3 overnight from [**7-27**] to [**7-28**], and
   then subsequently identified to have a gluteal hematoma on abd CT.
   currently INR 1.5, PTT 29.5 and pt off gtt since afternoon of [**7-28**].  Pt
   s/p total of 3U PRBCs since [**7-28**] with inappropriate bump in Hct
   following 1U PRBCs on [**7-31**] : 24.4
24.2. With fall in Hct by 2 points
   last night [**7-31**], stopped gtt and transfused 1 unit
   -Restart Heparin gtt slowly (no bolus doses) and continue to hold
   coumadin given continued bleeding into gluteal hematoma but strong
   medical indication for anticoagulation
   -Serial exams to eval for compartment syndrome; Ortho following
   -If pt develops foot drop, contact Ortho for possible hematoma
   evacuation.
   #Acute Anemia - due to R gluteal hematoma as above. Pt initially with
   supratherapeutic INR on admission to OSH prior to transfer, s/p Vitamin
   K prior to hip surgery.
   -Hct check q6
   -Transfuse PRBCs to keep Hct >24
   -Check coags daily, no need for FFP unless Hct drop becomes more acute
   or pt becomes hemodynamically unstable from bleed
   #Mechanical Aortic Valve
   -Restarted heparin gtt yesterday, held overnight and restarted this
   morning recognizing that the hct drop may be an ooze into his hip vs
   bleed from other source
   -Continue holding Coumadin until bleeding issues stablize
   #Hypotension/Orthostatic Hypotension
   Initially admitted after a fall secondary to presumed orthostatic
   hypotension. Baseline BP runs 90's-100's, and currently 80's/60's with
   hematoma stabilizing.
   -tele monitoring
   -Start back on BBlocker at low dose
   -IVF resuscitation as needed to maintain cardiovascular status
   #Ischemic Cardiomyopathy
   Recent echo demonstrated EF of 45%.
   - Current JVD suggests pt may be volume overloaded. Continue to monitor
   BP this afternoon. Will not diurese today as BP is too low.
   -Continue Statin
   -resume BB at low dose today
   -No ACE for now given ACE allergy/no [**Last Name (un) 239**] given ARF
   -No nitrates for now
   #Acute Renal Failure
   Improving gradually following hypotensive episode earlier this
   admission.
   -Given current active bleeding, goal to keep I/O even to slight neg to
   maintain kidney perfusion
   -Monitor BMP daily
   #Delirium
   Reportedly improved somewhat since recent discharge out of MICU several
   days ago. However, pt still reportedly confused per family.  Head CT on
   [**8-14**], [**7-19**] with no evidence of bleed or interval change.
   -Frequent reorientation
   -Avoid narcotics for pain, tramadol prn
   -Haldol prn hyperactivity or agitation
   #CAD
   -Holding ASA for now given active bleed into hematoma
   -Holding BBlocker given hypotension/active bleeding
   -Continue statin therapy
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-29**] 10:54 PM
   Prophylaxis:
   DVT:  pneumoboots, heparin gtt
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: can call out to the floor if bleeding stabilizes

2128-08-01 09:47:00 Physician Attending Progress Note
Chief Complaint: Post Operative Bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with decrease in HCT following start of anticoagulation
   (25.6-->23.6)
   Anticoagulation held in that setting
   No hemodynamic compromise
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   A.C.E Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-1**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 82 (74 - 91) bpm
   BP: 86/36(47) {85/22(39) - 109/77(83)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104 kg (admission): 100 kg
   Height: 71 Inch
   CVP: 8 (2 - 20)mmHg
   Total In:
                                                                  1,581 mL
                                                                    791 mL
   PO:
                                                                    870 mL
                                                                    320 mL
   TF:
   IVF:
                                                                    449 mL
                                                                     96 mL
   Blood products:
                                                                    263 mL
                                                                    375 mL
   Total out:
                                                                  1,390 mL
                                                                    630 mL
   Urine:
                                                                  1,390 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   HEART:Clear mechanical click and soft systolic murmur which is
   unchanged.
   Right hip is without pain and lower extremity is without any evidence
   of compartment syndrome this morning.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   729 K/uL
   108 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.5 mEq/L
   38 mg/dL
   109 mEq/L
   136 mEq/L
   26.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2128-7-29**]  11:47 PM
                             [**2128-7-30**]  03:50 AM
                             [**2128-7-30**]  11:43 AM
                             [**2128-7-30**]  06:39 PM
                             [**2128-7-31**]  03:22 AM
                             [**2128-7-31**]  11:38 AM
                             [**2128-7-31**]  05:56 PM
                             [**2128-7-31**]  11:16 PM
                             [**2128-8-1**]  04:21 AM
   WBC
   14.1
   14.4
   12.7
   10.0
   Hct
   23.3
   24.1
   24.5
   24.4
   24.2
   24.0
   25.6
   23.6
   26.3
   Plt
   550
   607
   655
   729
   Cr
   1.7
   1.8
   1.5
   1.4
   Glucose
   114
   119
   112
   108
   Other labs: PT / PTT / INR:16.9/29.4/1.5, ALT / AST:55/57, Alk Phos / T
   Bili:236/1.1, Amylase / Lipase:45/49, Albumin:2.3 g/dL, LDH:330 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   74 yo male s/p ORIF of right hip complicated by local bleeding in the
   setting of required anticoagulation for mechanical valve.  He has had
   HCT at 24 over past two days and with single value of 25.6 would be an
   outlier.  He did not have evidence of hemodynamic insult or change in
   pain at the site or function of the lower extermity and Ortho exam was
   reassuring.
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
   -Repeat HCT q 6 hours today
   -Will continue to monitor local exam for signs of worsening
   -Would utilize only significant bleeding and symptomatic changes to
   guide need to stop heparin.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   -1 unit yesterday
   -Repeat HCT this morning
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)-
   -Will start heparin again today and continue given significant increase
   in risk for valve thrombus at this time and with quite good stability
   over past 24-36 hours.
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DELIRIUM / CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -Beta blocker to restart
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-29**] 10:54 PM
   Prophylaxis:
   DVT: IV Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2128-08-02 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2128-8-1**] 09:00 PM
 BLOOD CULTURED - At [**2128-8-1**] 09:00 PM
   -restarted heparin, PTT 79, 85.9, 119 (turned down)
   - HCT stable, 26.3, 26, 25.6, 26.6, 25.7
   -spiked fever to 100.5, pancultured. Has had RIJ since [**2128-7-21**].
   -If has one more stable PTT and HCT should be transfered to floor.
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   A.C.E Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-8-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-2**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 83 (74 - 85) bpm
   BP: 105/51(65) {82/22(39) - 114/62(110)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 16 (3 - 16)mmHg
   Total In:
                                                                  1,945 mL
                                                                    462 mL
   PO:
                                                                  1,120 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    450 mL
                                                                    162 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,585 mL
                                                                    390 mL
   Urine:
                                                                  1,585 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    360 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   GEN: Sitting up in bed in NAD
   NEURO: Alert. Oriented to person only. Able to move both feet.
   HEENT: NC/AT MMM
   NECK: JVD difficult to assess with IJ in
   LUNGS: Crackles at bases
   HEART: Irreg irreg with loud S2
   EXTREM: R-sided groin hematoma stable. Incision site C/D/I. No erythema
   or blistering.  DP pulses 1+ BL
   Labs / Radiology
   754 K/uL
   8.3 g/dL
   106 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.3 mEq/L
   34 mg/dL
   109 mEq/L
   137 mEq/L
   25.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2128-7-31**]  03:22 AM
                             [**2128-7-31**]  11:38 AM
                             [**2128-7-31**]  05:56 PM
                             [**2128-7-31**]  11:16 PM
                             [**2128-8-1**]  04:21 AM
                             [**2128-8-1**]  10:40 AM
                             [**2128-8-1**]  03:05 PM
                             [**2128-8-1**]  07:21 PM
                             [**2128-8-2**]  01:45 AM
                             [**2128-8-2**]  03:12 AM
   WBC
   12.7
   10.0
   9.5
   Hct
   24.2
   24.0
   25.6
   23.6
   26.3
   26.0
   25.6
   26.6
   26.0
   25.7
   Plt
   655
   729
   754
   Cr
   1.5
   1.4
   1.3
   Glucose
   112
   108
   106
   Other labs: PT / PTT / INR:19.1/119.1/1.8, ALT / AST:55/57, Alk Phos /
   T Bili:236/1.1, Amylase / Lipase:45/49, Albumin:2.3 g/dL, LDH:330 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assessment: 74 yo M with Mechanical Aortic Valve who was anticoagulated
   after ortho surgery and bled into his hip resulting in hct drop and R
   gluteal hematoma.
   Plan:
   #R gluteal hematoma: Pt s/p recent R hip hemiarthroplasty and
   re-started on Heparin gtt post-op given mechanical aortic valve. Was
   noted to have Hct drop of 27.3 --> 23.3 overnight from [**7-27**] to [**7-28**], and
   then subsequently identified to have a gluteal hematoma on abd CT. Pt
   s/p total of 4U PRBCs since [**7-28**] with inappropriate bump in Hct
   following 1U PRBCs on [**7-31**] : 24.4
24.2. Currently INR 1.8, PTT 119 on
   heparin gtt.
   - Heparin gtt  turned down for inc PTT today. continuing to hold
   coumadin and awaiting ortho
s recs on when to restart it.
   -Serial exams to eval for compartment syndrome; Ortho following
   -If pt develops foot drop, contact Ortho for possible hematoma
   evacuation.
   #Acute Anemia - due to R gluteal hematoma as above. Pt initially with
   supratherapeutic INR on admission to OSH prior to transfer, s/p Vitamin
   K prior to hip surgery. Now stable at Hct ~26 on Heparin gtt.
   -Hct check q6
   -Transfuse PRBCs to keep Hct >24
   -Check coags daily, no need for FFP unless Hct drop becomes more acute
   or pt becomes hemodynamically unstable from bleed
   #Mechanical Aortic Valve
   -Restarted heparin gtt [**2128-7-31**] Hct has been stable at ~26 since.
   -Continue holding Coumadin until bleeding issues stabilize. Will f/u
   with ortho re:their recs for this. If ok with them could start tonight
   if PTT normalized at next draw.
    #Fever: could be [**1-24**] line infection vs uti vs surgical site infection
   vs drug fever from keflex
   - Will D/C RIJ today once peripheral IV placed
   - Urine and blood cultures are pending
   -CXR with no change from [**2128-7-28**] with some suggestion of fluid overload
   but no apparent consolidations.
   #Hypotension/Orthostatic Hypotension
   Initially admitted after a fall secondary to presumed orthostatic
   hypotension. Baseline BP runs 90's-100's, and currently 80's/60's with
   hematoma stabilizing.
   -tele monitoring
   -Started back on BBlocker at low dose for HR control of Afib. [**Month (only) 60**]
   benefit more from Coreg given his cardiac history. Will defer for now
   as patient currently stable on low dose BBlocker.
   -IVF resuscitation as needed to maintain cardiovascular status
   #Ischemic Cardiomyopathy
   Recent echo demonstrated EF of 45%.
   - Current JVD suggests pt may be volume overloaded. SBPs now high 90s.
    Will restart patient
s home dose of spironolactone and consider
   re-adding his bumex as well if continues to be overloaded by exam.
   -Continue Statin
   -No ACE for now given ACE allergy/no [**Last Name (un) 239**] given ARF
   -No nitrates for now
   #Acute Renal Failure: Creatinine 1.3.
   Improving gradually following hypotensive episode earlier this
   admission.
   -Given current active bleeding, goal to keep I/O even to slight neg to
   maintain kidney perfusion
   -Monitor BMP daily
   #Delirium
   Reportedly improved somewhat since recent discharge out of MICU several
   days ago. However, pt still reportedly confused per family.  Head CT on
   [**8-14**], [**7-19**] with no evidence of bleed or interval change.
   -Frequent reorientation
   -Avoid narcotics for pain, tramadol prn
   -Haldol prn hyperactivity or agitation
   #CAD
   -Holding ASA for now given active bleed into hematoma.
   -Continue statin therapy
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-29**] 10:54 PM
   Prophylaxis:
   DVT:  pneumoboots, heparin gtt
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: can call out to the floor if bleeding stabilizes